US05817669
To a mixture composed of 4-amino-2,6-dichloropyridine (5.5 g), cuprous chloride (4.4 g) and concentrated hydrochloric acid (50 ml), sodium nitrite (3.5 g) was added little by little under cooling with ice and sodium chloride. After the resultant mixture was stirred for one hour at the same temperature and for one and a half hour at a room temperature, water was added, and the mixture was extracted with chloroform. After the obtained extract was dried over anhydrous sodium sulfate, solvent was distilled off under reduced pressure to give 2,4,6-trichloropyridine (5.5 g).

reactant | 4-amino-2,6-dichloropyridine | 5.5 g | NC1=CC(=NC(=C1)Cl)Cl | C5H4Cl2N2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | 2,4,6-trichloropyridine | 5.5 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
